US07816522B2
To 150 ml of a THF solution containing 10.5 g of 1-ethoxy-4-fluorobenzene, 50 ml of n-butyllithium (1.58 M, hexane solution) was added dropwise at −78° C. under a nitrogen atmosphere. The resulting mixture was stirred for 4 and a half hours, then 8.9 ml of trimethoxy boron was added thereto. Then, the temperature of the mixture was slowly allowed to rise to room temperature. The reaction mixture was stirred for 3 and a half hours, then 12.9 ml of acetic acid and 12.7 ml of a 30% hydrogen peroxide aqueous solution were added thereto at 0° C. The mixture was stirred at room temperature overnight, and then a saturated sodium sulfite aqueous solution was added thereto. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was crudely purified by silica gel column chromatography (ethyl acetate-heptane) to give a crude product of 5-ethoxy-2-fluorophenol.

reactant | 1-ethoxy-4-fluorobenzene | 10.5 g | C(C)OC1=CC=C(C=C1)F | C8H9FO
reactant | n-butyllithium | 1.58 M, 50 ml | C(CCC)[Li]
reactant | trimethoxy boron | 8.9 ml | COB(OC)OC | C3H9BO3
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 12.9 ml | C(C)(=O)O | C2H4O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5-ethoxy-2-fluorophenol | C(C)OC=1C=CC(=C(C1)O)F | C8H9FO2
